US07538121B2
N-(1-Methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1,1′-biphenyl-4-carboxamide
Using the procedure outlined in Example 25, the title compound was prepared from N-methyl-6-amino-1,2,3,4-tetrahydroquinoline (International Patent Application, Publication number WO 94/14801) (75 mg, 0.46 mmol) and 4-biphenylcarboxylic acid (140 mg, 0.71 mmol) as a yellow gum. 1H NMR (250 MHz, CDCl3) δ (ppm): 8.03 (d, 2H), 7.6-7.8 (m, 5H), 7.4-7.55 (m, 3H), 7.2-7.35 (m, 2H), 6.59 (d, 1H), 3.21 (m, 2H), 2.89 (s, 3H), 2.79 (m, 2H), 1.99 (m, 2H).

reactant | N-methyl-6-amino-1,2,3,4-tetrahydroquinoline | 0.46 mmol, 75 mg | CN1CCCC2=CC(=CC=C12)N | C10H14N2
reactant | 4-biphenylcarboxylic acid | 0.71 mmol, 140 mg | C1(=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
product | N-(1-Methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1,1′-biphenyl-4-carboxamide | CN1CCCC2=CC(=CC=C12)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C23H22N2O
